US07799933B2
A solution of indole-6-carboxylic acid (2.00 g, 12.40 mmol) in dimethylformamide (20.00 mL) under argon was treated with N-methyl morpholine (6.82 mL, 62.04 mmol), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium-hexaflurophophate (HATU) (7.08 g, 18.62 mmol) and (4-amino-phenyl)-acetic acid tert-butyl ester (2.57 g, 12.40 mmol). The mixture was warmed at 60° C. and stirred for 18 hours. After cooling to room temperature, water (15.00 mL) was added. The resulting slurry was extracted with ethyl acetate and the combined organic phases washed with brine, dried over magnesium sulphate and evaporated. The residue was purified by flash chromatography (heptane/ethyl acetate gradient), to yield pure {4-[(1H-indole-6-carbonyl)-amino]-phenyl}-acetic acid tert-butyl ester (0.51 g) and a mixture of {4-[(1H-indole-6-carbonyl)-amino]-phenyl}-acetic acid tert-butyl ester and 1H-indole-6-carboxylic acid [1,2,3]triazolo[4,5-b]pyridin-3-yl ester (3.41 g). This was dissolved in tetrahydrofuran (34.00 mL) and treated with 1N NaOH. The mixture was stirred at room temperature for 4 hours, then extracted with ethyl acetate. The combined organic phases were washed with brine, dried over magnesium sulphate and evaporated, and the residue triturated in ether to afford {4-[(1H-indole-6-carbonyl)-amino]-phenyl}-acetic acid tert-butyl ester (1.36 g), which was combined with the aliquot obtained by flash chromatography. Total yield of {4-[(1H-indole-6-carbonyl)-amino]-phenyl}-acetic acid tert-butyl ester, 1.87 g (43%), MS (mass spectrometry) (ISP): m/e=351.3 (M+H). As used herein (M+H)=the molecular weight of the compound plus a proton.

reactant | indole-6-carboxylic acid | 12.40 mmol, 2.00 g | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
reactant | N-methyl morpholine | 62.04 mmol, 6.82 mL | CN1CCOCC1 | C5H11NO
reactant | (4-amino-phenyl)-acetic acid tert-butyl ester | 12.40 mmol, 2.57 g | C(C)(C)(C)OC(CC1=CC=C(C=C1)N)=O | C12H17NO2
reactant | water | 15.00 mL | O | H2O
solvent | dimethylformamide | 20.00 mL | CN(C=O)C | C3H7NO
product | {4-[(1H-indole-6-carbonyl)-amino]-phenyl}-acetic acid tert-butyl ester | 0.51 g | C(C)(C)(C)OC(CC1=CC=C(C=C1)NC(=O)C1=CC=C2C=CNC2=C1)=O | C21H22N2O3
